US08536179B2
24b) Methyl 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylate
To a stirred solution of methyl 6-bromo-3-formyl-1-isopropyl-1H-indole-4-carboxylate (60 g, 185 mmol) in DMF (220 mL) was added p-toluenesulfonic acid mono hydride (4.57 g, 24 mmol), p-toluenesulfonyl hydrazide (44.8 g, 240 mmol) followed by sulfolane (220 mL). The mixture was stirred at 100° C. for 1 h. The contents were cooled to room temperature and then sodium cyanoborohydride (46.5 g, 740 mmol) was added portion wise over a period of 25 min. Then the mixture was stirred at 100° C. for 2 h. Then the reaction mixture was stirred for 16 h at room temperature. The reaction mixture was diluted with water and extracted with 20% EtOAc: Pet ether, finally organic layer was washed with cold water, brine solution dried over anhydrous Na2SO4 and concentrated. Crude compound was purified by column chromatography using silica gel (100-200 mesh) and 20% DCM: Pet ether as an eluent to afford desired product methyl 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylate (24 g, 89.2% purity), (16 g, and 62.2% purity). 1H NMR (CDCl3, 400 MHz) δ 1.486 (d, J=6.4 Hz, 6H), 2.361 (s, 3H), 3.947 (s, 3H), 4.535-4.602 (m, 1H), 7.080 (s, 1H), 7.619 (s, 1H), 7.684 (s, 1H). LCMS (ES+) m/z=310.07 (M+H)

reactant | methyl 6-bromo-3-formyl-1-isopropyl-1H-indole-4-carboxylate | 185 mmol, 60 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C=O)C(=O)OC | C14H14BrNO3
reactant | p-toluenesulfonic acid mono hydride | 24 mmol, 4.57 g | C1(=CC=C(C=C1)S(=O)=O)C | C7H8O2S
reactant | sulfolane | 220 mL | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | sodium cyanoborohydride | 740 mmol, 46.5 g | C(#N)[BH3-].[Na+]
solvent | DMF | 220 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylate | 24 g, 89.2% | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC | C14H16BrNO2
